US06894067B2
6-[4-Cyano-5-(2,2-dimethyl-propylamino)-3-trifluoromethyl-pyrazol-1-yl]-pyridine-3-sulfonic Acid acetyl-amide Sodium Salt
6-[4-Cyano-5-(2,2-dimethyl-propylamino)-3-trifluoromethyl-pyrazol-1-yl]-pyridine-3-sulfonic acid amide (166.3 mg, 0.413 mMol), was dissolved in methylene chloride (10 ml) and stirred under nitrogen. Acetic anhydride (126.5 mg, 1.239 mMol), triethylamine (49.3 mg, 0.49 mMol) and N,N-dimethylaminopyridine (25.2 mg, 0.5 mMol) were added into the methylene chloride solution, and stirred for 18 hours. The reaction mixture was washed with water and brine, dried with magnesium sulfate, filtered, and evaporated. The residue was chromatographed on silica, eluting with 0.75% methanol/methylene chloride, to give a free acid in 80% yield. The free acid was converted to the sodium salt by reacting the free acid with one equivalent of sodium hydroxide in ethanol, evaporation, and drying under high vacuum. The desired product was isolated by chromatography on silica gel column. MS: 443.5 ES, r.t.: 3.0 minutes.

reactant | 6-[4-Cyano-5-(2,2-dimethyl-propylamino)-3-trifluoromethyl-pyrazol-1-yl]-pyridine-3-sulfonic acid amide | 0.413 mMol, 166.3 mg | C(#N)C=1C(=NN(C1NCC(C)(C)C)C1=CC=C(C=N1)S(=O)(=O)N)C(F)(F)F | C15H17F3N6O2S
reactant | Acetic anhydride | 1.239 mMol, 126.5 mg | C(C)(=O)OC(C)=O | C4H6O3
reactant | triethylamine | 0.49 mMol, 49.3 mg | C(C)N(CC)CC | C6H15N
reactant | sodium | [Na] | Na
reactant | sodium hydroxide | one equivalent | [OH-].[Na+]
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | ethanol | C(C)O | C2H6O
product | 6-[4-Cyano-5-(2,2-dimethyl-propylamino)-3-trifluoromethyl-pyrazol-1-yl]-pyridine-3-sulfonic Acid acetyl-amide Sodium Salt | 80% yield | [Na].C(C)(=O)NS(=O)(=O)C=1C=NC(=CC1)N1N=C(C(=C1NCC(C)(C)C)C#N)C(F)(F)F | InChI=1S/C17H19F3N6O3S.Na/c1-10(27)25-30(28,29)11-5-6-13(22-8-11)26-15(23-9-16(2,3)4)12(7-21)14(24-26)17(18,19)20;/h5-6,8,23H,9H2,1-4H3,(H,25,27);
